US04329347
6-[5-(2-Pyridyl-sulfinyl)-pentoxy]-3,4-dihydro-carbostyril
Prepared analagous to Example 2 from 6-[5-(2-pyridyl-mercapto)-pentoxy]-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-[5-(2-pyridyl-mercapto)-pentoxy]-3,4-dihydro-carbostyril | N1=C(C=CC=C1)SCCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H22N2O2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[5-(2-Pyridyl-sulfinyl)-pentoxy]-3,4-dihydro-carbostyril | N1=C(C=CC=C1)S(=O)CCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H22N2O3S
